US05677302
A mixture of 2-butyl -1,2,4-thiadiazolo[4,5-a]benzimidazole-3(2H)-one (0.3 g, 1.2 mole) and methyl 4-cyanobenzoate (0.41 g, 2.5 mmole) in 7 mL of dichloromethane was heated to reflux for 20 h. The precipitate was filtered and washed with dichloromethane to give 0.16 g (48%) of 3-[4-(methoxycarbonyl)phenyl]-1,2,4-thiadiazolo [4,5-a]benzimidazole as a white solid: mp 204°-206° C.; 1H NMR (CDCl3) δ8.33 (d, 2H), 7.98 (d, 2H), 7.83 (d, 1H), 7.49 (m, 2H), 7.20 (t, 1H), 4.02 (s, 3H) ppm; 13C NMR (CDCl3) δ165.96, 165.30, 151.08, 149.10,133.16, 132.55, 130.24(2C), 128.69(3C), 125.34, 121.58, 119.96, 112.01, 52.56 ppm; IR (KBr) ν1729, 1508, 1448, 1275, 733 cm-1 ; HRMS calcd for C16H11N3O2S, 309.0572 found 309.05719.

reactant | 2-butyl -1,2,4-thiadiazolo[4,5-a]benzimidazole-3(2H)-one | 1.2 mole, 0.3 g | C(CCC)N1SC2=NC3=C(N2C1=O)C=CC=C3 | C12H13N3OS
reactant | methyl 4-cyanobenzoate | 2.5 mmole, 0.41 g | C(#N)C1=CC=C(C(=O)OC)C=C1 | C9H7NO2
solvent | dichloromethane | 7 mL | ClCCl | CH2Cl2
product | 3-[4-(methoxycarbonyl)phenyl]-1,2,4-thiadiazolo [4,5-a]benzimidazole | 0.16 g, 48% | COC(=O)C1=CC=C(C=C1)C1=NSC2=NC3=C(N21)C=CC=C3 | C16H11N3O2S
